US06608095B2
3-Hydroxymethyl-4-(methylsulfonyl)phenylhydrazine hydrochloride (step 4)
The title compound was prepared according to the procedure of step 1 of Example 155 using 3-hydroxymethyl-4-(methylsulfonyl)aniline from step3 instead of 3-chloro-4-(methylsulfonyl)aniline.

reactant | 3-hydroxymethyl-4-(methylsulfonyl)aniline | OCC=1C=C(N)C=CC1S(=O)(=O)C | C8H11NO3S
reactant | 3-chloro-4-(methylsulfonyl)aniline | ClC=1C=C(N)C=CC1S(=O)(=O)C | C7H8ClNO2S
product | 3-Hydroxymethyl-4-(methylsulfonyl)phenylhydrazine hydrochloride | Cl.OCC=1C=C(C=CC1S(=O)(=O)C)NN | InChI=1S/C8H12N2O3S.ClH/c1-14(12,13)8-3-2-7(10-9)4-6(8)5-11;/h2-4,10-11H,5,9H2,1H3;1H
